US04416884
In an analogous manner as in Example 1, 8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]-quinolizine-2-carboxylic acid was reacted with 1-formylpiperazine to form 8-(4-formyl-1-piperazinyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid as white rhombic crystals having a melting point of 300° C. or more.

reactant | 8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]-quinolizine-2-carboxylic acid | ClC1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C14H12ClNO3
reactant | 1-formylpiperazine | C(=O)N1CCNCC1 | C5H10N2O
product | 8-(4-formyl-1-piperazinyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | C(=O)N1CCN(CC1)C1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C19H21N3O4
